US07732435B2
Isobutyric acid 2-acetyl-5-(4-methoxy-benzyloxy)-phenyl ester
1-[2-Hydroxy-4-(4-methoxy-benzyloxy)-phenyl]-ethanone (9.11 g, 0.034 mol) is dissolved in dry dichloromethane (120 ml) under an atmosphere of dry argon. Triethylamine (5.14 ml, 0.037 mol) and 4-dimethylaminopyridine (0.204 g, 1.67 mmol) are added, and the mixture is cooled to 0° C. using an ice-water bath. Isobutyryl chloride (3.89 ml, 0.037 mol) is then added dropwise, and the mixture is stirred while warming to room temperature. The mixture is poured into water (100 ml), and the dichloromethane layer is separated, washed with saturated brine (100 ml), dried (MgSO4), treated with activated charcoal (300 mg), filtered and evaporated to give a pale pink solid.

reactant | 1-[2-Hydroxy-4-(4-methoxy-benzyloxy)-phenyl]-ethanone | 0.034 mol, 9.11 g | OC1=C(C=CC(=C1)OCC1=CC=C(C=C1)OC)C(C)=O | C16H16O4
reactant | Triethylamine | 0.037 mol, 5.14 ml | C(C)N(CC)CC | C6H15N
reactant | Isobutyryl chloride | 0.037 mol, 3.89 ml | C(C(C)C)(=O)Cl | C4H7ClO
reactant | water | 100 ml | O | H2O
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.67 mmol, 0.204 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Isobutyric acid 2-acetyl-5-(4-methoxy-benzyloxy)-phenyl ester | C(C)(=O)C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)OC(C(C)C)=O | C20H22O5
